US08809592B2
DIBK is generally produced at the same time as methyl isobutyl ketone (MIBK) in a condensation reaction of acetone. However, the conversion and the selectivity for DIBK are very low and wholly insufficient.

reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
reactant | acetone | CC(=O)C | C3H6O
product | DIBK | CC(C)CC(=O)CC(C)C | C9H18O
